US04443464
(+)-2-[1-(2,6-dichlorophenoxy)-ethyl]-1,3-diazacyclopent-2-ene
50.2 g (=0.2646 mols) of titanium tetrachloride are dissolved in a mixture of 700 ml of absolute chloroform and 25 ml of tetrahydrofuran at 0° C. and are mixed with 30.0 g (=0.108 mols) of (+)-2-(2,6 -dichlorophenoxy)-propionic acid-N-(2-aminoethyl)-amide. A solution of 63.0 g (=0.5155 mols) of 4-dimethylaminopyridine is then added dropwise very slowly at 0° C. with stirring and the mixture is further stirred for 36 hours at room temperature after the solution has been added. After working up and after purification by column chromatography (silica gel-dry column, eluant: chloroform/tetrahydrofuran 3:1), 16.0 g of (+)-2-[1-(2,6-dichlorophenoxy)ethyl]-1,3-diazacyclopent-2-ene C11H12Cl2N2O [259.1], are obtained, Mp: 127°-128° C.: [α]D20 =+80.6° (c=1/ethanol).

reactant | (+)-2-(2,6 -dichlorophenoxy)-propionic acid-N-(2-aminoethyl)-amide | 0.108 mols, 30.0 g | NCCNC(C(C)OC1=C(C=CC=C1Cl)Cl)=O | C11H14Cl2N2O2
reactant | ethanol | C(C)O | C2H6O
solvent | chloroform | 700 ml | C(Cl)(Cl)Cl | CHCl3
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
catalyst | 4-dimethylaminopyridine | 0.5155 mols, 63.0 g | CN(C1=CC=NC=C1)C | C7H10N2
catalyst | titanium tetrachloride | 0.2646 mols, 50.2 g | [Ti](Cl)(Cl)(Cl)Cl
product | (+)-2-[1-(2,6-dichlorophenoxy)-ethyl]-1,3-diazacyclopent-2-ene | ClC1=C(OC(C)C=2NCCN2)C(=CC=C1)Cl | C11H12Cl2N2O
